US09260427B2
To a solution of (S)-2-amino-3-(4-(tert-butoxycarbonyl)phenyl)propanoic acid (500.0 mg, 1.88 mmol) in MeOH (20 mL) at 0° C. was slowly added thionyl chloride (447.64 mg, 3.77 mmol). The reaction was stirred for 1 h at 0° C. then warmed to room temperature and stirred for 1 h. The solvent was removed under reduced pressure. The reaction mixture was washed with saturated aqueous NaHCO3 (20 ml) and extracted with DCM (3×10 ml). The organic layer was dried over MgSO4 and concentrated. The crude product was purified by chromatography (EA/hexanes) to afford 425 mg (95%) of (S)-methyl 4-(2-amino-3-methoxy-3-oxopropyl)benzoate as the HCl salt. LCMS-ESI (m/z) calculated for C12H15NO4, 237.1. found 238.0 [M+H]+, tR=1.01 min (Method 1). 1H NMR (400 MHz, CDCl3) δ 8.55 (s, 3H), 7.94 (d, J=8.3 Hz, 2H), 7.41 (d, J=8.3 Hz, 2H), 4.37 (t, J=6.8 Hz, 1H), 3.86 (s, 3H), 3.68 (s, 3H), 3.20 (dd, J=11.8, 6.8 Hz, 2H).

reactant | (S)-2-amino-3-(4-(tert-butoxycarbonyl)phenyl)propanoic acid | 1.88 mmol, 500.0 mg | N[C@H](C(=O)O)CC1=CC=C(C=C1)C(=O)OC(C)(C)C | C14H19NO4
reactant | thionyl chloride | 3.77 mmol, 447.64 mg | S(=O)(Cl)Cl | Cl2OS
reactant | MeOH | 20 mL | CO | CH4O
product | (S)-methyl 4-(2-amino-3-methoxy-3-oxopropyl)benzoate | 425 mg, 95% | N[C@@H](CC1=CC=C(C(=O)OC)C=C1)C(=O)OC | C12H15NO4
